Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
pancreatitis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE .
Date: ___
Time: ___
____________________________________________________
PCP: ___, last seen 8 months ago
CC: abdominal pain/pancreatitis
_____________________________________________________
HPI:  ___ yo M with hypertriglyceridemia, previous pancreatitis 
x3, discharged ___ afternoon from ___ after 4 
day hospitalization for pancreatitis now presents to ___ ED 
with ___ abdominal pain. He describes sharp abdominal pain in 
LUQ radiating to the back. + Nausea, no vomiting. + chills and 
sweats. He reports that he has not been taking his gemfibrozil. 
He drinks ___ beers when watching sports, usually on ___, 
___ and ___. last drink on ___. He has not been 
sleeping well over the last several days while at ___.

In ER: (Triage Vitals: 99 95 158/98 18 99% RA) Meds Given: 
hydromorphone 1mg x 2, ondansetron; Fluids given: 3L NS; 
Radiology Studies: CT with pancreatitis w/ extensive mesenteric 
fluid stranding, but no organized fluid collection to suggest 
pseudocyst. uniform pancreatic enhancement makes necrosis 
unlikely. attenuated but patent splenic and superior mesenteric 
veins.
.
PAIN SCALE: ___ location: LUQ radiating to back
________________________________________________________________
REVIEW OF SYSTEMS:
CONSTITUTIONAL:        [] All Normal
[ ] Fever  [x ] Chills   [x ] Sweats  [ ] Fatigue   [ ] Malaise  
 [ ]Anorexia  [ ]Night sweats
[x ] ___14__ lbs.    weight  gain     over _____ months

HEENT:          [x] All Normal
[ ] Blurred vision   [ ] Blindness  [ ] Photophobia
[ ] Decreased acuity [ ] Dry mouth  [ ] Bleeding gums
[ ] Oral ulcers  [ ] Sore throat    [ ] Epistaxis  [ ] Tinnitus
[ ] Decreased hearing    [ ]Tinnitus [ ] Other:

RESPIRATORY:    [x] All Normal
[ ] SOB     [ ] DOE    [ ] Can't walk 2 flights     [ ] Cough
[ ] Wheeze  [ ] Purulent sputum    [ ] Hemoptysis   [ ]Pleuritic 
pain 
[ ] Other:

CARDIAC:        [x]  All Normal
[ ] Angina    [ ] Palpitations   [ ] Edema   [ ] PND
[ ] Orthopnea    [ ] Chest Pain [ ] Other:

GI:             [] All Normal
[ ] Blood in stool     [ ] Hematemesis     [ ] Odynophagia
[ ] Dysphagia:   [ ] Solids    [ ] Liquids
[ ] Anorexia    [X] Nausea  [] Vomiting   [ ] Reflux
[ ] Diarrhea    [ ] Constipation  [X]  Abd pain  [ ] Other:

GU:             [x] All Normal
[ ] Dysuria      [ ] Frequency    [ ] Hematuria  []Discharge 
[]Menorrhagia  

SKIN:           [x] All Normal
[ ] Rash        [ ] Pruritus

MS:             [x] All Normal
[ ] Joint pain    [ ] Jt swelling   [ ] Back pain  [ ] Bony pain

NEURO:          [x] All Normal
[ ] Headache    [ ] Visual changes   [ ] Sensory change [ 
]Confusion [ ]Numbness of extremities
[ ] Seizures   [ ] Weakness [ ] Dizziness/Lightheaded [ ]Vertigo 
[ ] Headache

ENDOCRINE:     [x] All Normal
[ ] Skin changes  [ ] Hair changes   [ ] Temp subjectivity

HEME/LYMPH:    [x] All Normal
[ ] Easy bruising   [ ] Easy bleeding    [ ] Adenopathy

PSYCH:         [x] All Normal
[ ] Mood change        []Suicidal Ideation  [ ] Other:  

[x]all other systems negative except as noted above 

 
Past Medical History:
hypertriglyceridemia
pancreatitis
 
Social History:
___
Family History:
Mother with MI, stroke

 
Physical Exam:
T 99.2  P 93  BP 171/108--> 152/100 RR 18  O2Sat 99% RA  
GENERAL:  uncomfortable, obese
Eyes: NC/AT, PERRL, EOMI, no scleral icterus noted  
Ears/Nose/Mouth/Throat: MMM, no lesions noted in OP  
Neck: supple, large  
Respiratory: Lungs clear anteriorly
Cardiovascular: reg, S1S2, no M/R/G noted  
Gastrointestinal: soft, obese, +distended, moderately tender to 
palpation in LUQ, + bowel sounds
Skin: no rashes or lesions noted. No pressure ulcer  
Extremities: No C/C/E bilaterally, 2+ radial, DP and ___ pulses 
b/l.  
Lymphatics/Heme/Immun: No cervical, supraclavicular 
lymphadenopathy noted.  
Neurologic:  
-mental status: Alert, oriented x 3. Able to relate history 
without difficulty.  
-cranial nerves: II-XII intact  
-motor: normal bulk, strength and tone throughout. No abnormal 
movements noted.  
-sensory: No deficits to light touch throughout.  
-cerebellar: No nystagmus, dysarthria, intention or action 
tremor, dysdiadochokinesia noted.  
No foley catheter/tracheostomy/PEG/ventilator support/chest  
tube/colostomy  
Psychiatric: interactive, inpatient

ACCESS: [x]PIV 

 
Pertinent Results:
___ 12:20AM   WBC-12.3* RBC-4.36* HGB-13.5* HCT-39.0* 
MCV-90 MCH-31.0 MCHC-34.6 RDW-14.3
___ 12:20AM   NEUTS-84.4* LYMPHS-10.2* MONOS-3.2 EOS-2.1 
BASOS-0.2
___ 12:20AM   PLT COUNT-192

___ 12:20AM   GLUCOSE-115* UREA N-14 CREAT-0.7 SODIUM-138 
POTASSIUM-3.5 CHLORIDE-101 TOTAL CO2-23 ANION GAP-18
___ 12:20AM   ALT(SGPT)-80* AST(SGOT)-65* ALK PHOS-93 TOT 
BILI-0.6
___ 12:20AM   LIPASE-70*
___ 12:20AM   ALBUMIN-3.6

___ 01:53AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-80 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 01:53AM URINE  RBC-0 ___ BACTERIA-RARE YEAST-NONE 
EPI-0
___ 01:53AM URINE  COLOR-Yellow APPEAR-Clear SP ___

CT Abd: PRELIM: pancreatitis w/ extensive mesenteric fluid 
stranding, but no organized fluid collection to suggest 
pseudocyst. uniform pancreatic enhancement makes necrosis 
unlikely. attenuated but patent splenic and superior mesenteric 
veins 

 
Brief Hospital Course:
___ yo M with hypertriglyceridemia, recent admission to 
___ for pancreatitis with ongoing abdominal 
pain.

1. Pancreatitis: Severe, but no necrosis. ___ score ? 6 
given
pancreatic enhancement, peripancreatic inflammation, and 
extrapancreatic fluid collections. He was given aggressive IVF 
at 200 cc/hr, which was decreased then weaned off. His 
electrolytes were repleted. He was initially given iv pain 
control and antiemetics, which were transitioned to po form, and 
now which he does not need. Given that he didn't have adequate 
po intake for about 7 days, we placed an NJ tube and started 
tube feeds. He pulled this tube out, but was already tolerating 
full liquids, which was advanced to a regular low-fat diet 
successfully. 

2. Transaminitis: He had transaminitis likely related to his 
alcohol intake. These were trended down. We drew viral hepatitis 
serologies, still pending.

3. Hypertriglyceridemia: His triglycerides were 536 on 
admission.

4. EtOH use several days prior to this admission. He was 
monitored on a CIWA scale, and was not symptomatic. Social work 
was also consulted. He agrees that he should avoid alcohol and 
would even be amenable to abstaining from alcohol if told by his 
PCP.

5. PPX: SC heparin
.  
CODE: FULL  

 
Medications on Admission:
gemfibrozil (not taking regularly)
 
Discharge Medications:
1. gemfibrozil 600 mg Tablet Sig: One (1) Tablet PO once a day.  


 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Severe acute pancreatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You have been admitted with severe acute pancreatitis, caused by 
alcohol and fatty foods. You should avoid both of these after 
discharge. You should also take cholesterol medication as 
prescribed.
 
Followup Instructions:
___